* D:\LTSpice\Termoreg2\LTSPICE_termoreg\OthersScheme\OldScheme\static.asc
V§U6.4V 6.4V 0 6.4
V§U15V 15V 0 15
V§Un15V -15V 0 -15
V§Un24 24V 0 24
R8 bridge2_1 0 7.5k
R10 bridge1_1 0 7.5k
R12 N001 bridge1_1 51k
R13 N002 bridge2_1 51k
R16 N002 0 51k
R47 A_1 N001 51k
R48 A_1 N004 2.2k
R49 N004 0 6.8k
R50 N005 N004 1Meg
R51 N005 N006 2.2k
R52 N006 0 4.7k
Rheat2 24V Collector_1 60
R53 Collector_1 N009 47k
R54 N009 0 22k
R55 N010 N008 70k
R56 0 N008 150k
R57 N007 N006 1k
C3 N009 N010 1µ
C4 N005 N004 0.1µ
C15 A_1 N001 0.1µ
C16 N007 0 0.1µ
E4 VRT_1 0 Collector_1 0 Laplace={Acoupling}
D3 0 N003 zen_1
R59 N003 15V 1.5k
Q3 Collector_1 N007 0 0 bjt1_1
R25 N003 bridge2_1 R=limit(1k,30k,V(VRT_1)+{rd0})
R60 N003 bridge1_1 8046
B4 A_1+noise 0 V=white(time*{noisetime})/{noiselevel}*4+V(A_1)
XU9 N002 N001 15V -15V A_1 level2 Avol=250k GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU10 N008 N004 15V -15V N005 level2 Avol=250k GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V§Un1 -24V 0 -24
.model D D
.lib C:\Users\Sergey\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Sergey\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 1000 100
* Supply
* .model sw1 SW(Roff=1G Ron=25u Vt=4 Vh=0)
* .param kp=0.5*ku
* .param kd=3*ku*tu/80
* .param ki=0.1*ku/tu/1
* .param tu=0.5
* .param ku=4.1
* .param ki=3
* .ic V(uupr)=0.545k
.model bjt1 AKO:BCW60D (Bf=600   ikf=0)
.model zen AKO:BZX384B6V2 (Bv=6.4)
;dc V1 1 20 0.1
.option abstol=1e-1
* .option cshunt=1e-13
.option gmin=1e-7
* .option reltol=0.001
* .model awp AKO:BZX384B6V2 (Bv=1.2)
.meas TRAN Rd AVG V(Vrt1,bridge2)/Ix(x1:1) FROM 800 TO 974
.meas TRAN Rd2 AVG V(Vrt1,bridge2)/Ix(x1:1) FROM 1200 TO 1400
* Wheatstone Bridge
* Diff Amplifier
* Thermostat Model
* Power Block
.model bjt1_1 AKO:BCW60D (Bf=600   ikf=0 )
.model zen_1 AKO:BZX384B6V2 (Bv=6.4)
* .model bjt1 AKO:2N4124 (Bf=600  ikf=0 )
* .step param r5 list 200k 100k 50k
* .step param r22 list 50k 100k 300k 500k
* .step param r22 list 100k 150k
* .step param r5 list 50k 100k
* Measurements
* Options
* Models
* Params
* Termoresistor Model
.param noisetime 10
.param noiselevel 5000
* Noise
* .step param r50 list 1Meg 9Meg
.param tau 80
.param Acoupling 90
.param rd0 6400
.lib UniversalOpAmp2.lib
.backanno
.end
